US04282246
5-(3-Chlorophenylthio)furan-3-carboxylate is dissolved in ethyl acetate. An equivalent of ethanolic potassium hydroxide is added. Potassium 5-(3-chlorophenylthio)furan-3-carboxylate is isolated by concentration to dryness or by precipitation resulting from addition of a non-solvent (ether or heptane).

reactant | 5-(3-Chlorophenylthio)furan-3-carboxylate | ClC=1C=C(C=CC1)SC1=CC(=CO1)C(=O)[O-]
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Potassium 5-(3-chlorophenylthio)furan-3-carboxylate | ClC=1C=C(C=CC1)SC1=CC(=CO1)C(=O)[O-].[K+] | InChI=1S/C11H7ClO3S.K/c12-8-2-1-3-9(5-8)16-10-4-7(6-15-10)11(13)14;/h1-6H,(H,13,14);/q;+1/p-1
